US09403834B2
To a solution of N-(tert-butyl)-2-(difluoromethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-sulfonamide (0.118 g, 0.303 mmol) and 1,4-dichloro-8-phenylpyrrolo[1,2-d][1,2,4]triazine (0.080 g, 0.30 mmol) in 1,4-dioxane (4 mL) and water (0.8 mL) was added K3PO4 (0.129 g, 0.606 mmol) and the reaction mixture was purged with nitrogen for 10 minutes. Tricyclohexylphosphonium tetrafluoroborate (0.011 g, 0.030 mmol) was added followed by Pd2(dba)3 (0.014 g, 0.015 mmol) and the nitrogen purging was continued for further 5 minutes. The reaction mixture was heated at 100° C. for 4 h then allowed to cool to ambient temperature. The reaction mixture was filtered through CELITE® and the filter cake was washed with EtOAc (2×50 mL). The filtrate was washed with water (50 mL). The organic phase was separated and the aqueous phase was further extracted with EtOAc (50 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The resulting residue was purified by CombiFlash Isco (REDISEP®, SiO2, 40 g, 0-50% EtOAc/petroleum ether) to obtain N-(tert-butyl)-5-(1-chloro-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)-2-(difluoromethyl)pyridine-3-sulfonamide (0.052 g, 35%) as a pale yellow solid. LCMS Method B-12: retention time 2.24 min, [M+1]=492.0. 1H NMR (400 MHz, DMSO-d6) δ ppm: 1.19 (s, 9H), 7.25 (d, J=2.8 Hz, 1H), 7.41-7.54 (m, 5H), 7.73 (t, J=52.4 Hz, 1H), 7.99 (d, J=2.8 Hz, 1H), 8.37 (s, 1H), 8.90 (br s, 1H), 9.45 (d, J=2.0 Hz, 1H).

reactant | N-(tert-butyl)-2-(difluoromethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-sulfonamide | 0.303 mmol, 0.118 g | C(C)(C)(C)NS(=O)(=O)C=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)C(F)F | C16H25BF2N2O4S
reactant | 1,4-dichloro-8-phenylpyrrolo[1,2-d][1,2,4]triazine | 0.30 mmol, 0.080 g | ClC=1C=2N(C(=NN1)Cl)C=CC2C2=CC=CC=C2 | C12H7Cl2N3
reactant | K3PO4 | 0.606 mmol, 0.129 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Tricyclohexylphosphonium tetrafluoroborate | 0.030 mmol, 0.011 g | F[B-](F)(F)F.C1(CCCCC1)[PH+](C1CCCCC1)C1CCCCC1
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.8 mL | O | H2O
catalyst | Pd2(dba)3 | 0.015 mmol, 0.014 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(tert-butyl)-5-(1-chloro-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)-2-(difluoromethyl)pyridine-3-sulfonamide | 0.052 g, 35% | C(C)(C)(C)NS(=O)(=O)C=1C(=NC=C(C1)C1=NN=C(C=2N1C=CC2C2=CC=CC=C2)Cl)C(F)F | C22H20ClF2N5O2S
